US08937303B2
A mixture of 4-iodo-1-trityl-1H-imidazole (7.95 g, 18.2 mmol), 5-methylthiophene-2-boronic acid pinacol ester (4.90 g, 21.9 mmol), Na2CO3 (7.66 g, 73.0 mmol) in H2O (20 mL) and dioxane (100 mL) was degassed (N2 bubbling). Pd(PPh3)4 (500 mg) was added and the mixture was heated to reflux for 4 h. The mixture was allowed to cool to room temperature and concentrated. The mixture was diluted with CH2Cl2 and H2O and the organic phase was separated. The aqueous phase was re-extracted (CH2Cl2) and the combined organics were washed (saturated aqueous NaCl), dried (MgSO4), filtered and concentrated to give a solid residue. The residue was purified by flash chromatography (EtOAc/CH2Cl2/hexanes 4:50:50 then 6:50:50 then 8:50:50) to give 4-(5-methylthiophen-2-yl)-1-trityl-1H-imidazole (6.15 g, 83%) as a colourless solid. 1H NMR (CDCl3, 400 MHz) δ2.46 (d, J=0.9 Hz, 3H), 6.62-6.65 (m, 1H), 6.94 (d, J=1.4 Hz, 1H), 6.99 (d, J=3.5 Hz, 1H), 7.15-7.21 (m, 6H), 7.31-7.37 (m, 9H), 7.41 (d, J=1.4 Hz, 1H); 13C NMR (CDCl3, 100 MHz) δ15.3, 75.5, 116.1, 121.7, 125.5, 128.1, 128.1, 129.8, 135.6, 136.4, 137.8, 138.9, 142.2; HRMS (EI) m/z 406.1496 C27H22N2S [M]+. requires 406.1498.

reactant | 4-iodo-1-trityl-1H-imidazole | 18.2 mmol, 7.95 g | IC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17IN2
reactant | 5-methylthiophene-2-boronic acid pinacol ester | 21.9 mmol, 4.90 g | CC1=CC=C(S1)B1OC(C)(C)C(C)(C)O1 | C11H17BO2S
reactant | Na2CO3 | 73.0 mmol, 7.66 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | H2O | 20 mL | O | H2O
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 4-(5-methylthiophen-2-yl)-1-trityl-1H-imidazole | 6.15 g, 83% | CC1=CC=C(S1)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H22N2S
